US06472386B1
Synthesis of Ethyl 1-Benzyl-5-(3,4,5-trimethoxyphenyl)-pyrazole-3-carboxylate
Ethyl 4-hydroxy-2-oxo-4-(3,4,5-trimethoxyphenyl)-3-butenoate (3.12 g) and benzylhydrazine hydrochloride (1.59 g) were treated in the same manner as in Preparation Example 26 to obtain the title compound.

reactant | Ethyl 4-hydroxy-2-oxo-4-(3,4,5-trimethoxyphenyl)-3-butenoate | 3.12 g | OC(=CC(C(=O)OCC)=O)C1=CC(=C(C(=C1)OC)OC)OC | C15H18O7
reactant | benzylhydrazine hydrochloride | 1.59 g | Cl.C(C1=CC=CC=C1)NN
product | Ethyl 1-Benzyl-5-(3,4,5-trimethoxyphenyl)-pyrazole-3-carboxylate | C(C1=CC=CC=C1)N1N=C(C=C1C1=CC(=C(C(=C1)OC)OC)OC)C(=O)OCC | C22H24N2O5
